US07696193B2
6-[(3-Cyclopentyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-N-methyl-3-pyridinecarboxamide (E223)
N-Methyl-6-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yloxy)-3-pyridinecarboxamide (D40) (150 mg, 0.5 mmol) was dissolved in 2.5% acetic acid in methanol (5 ml) and treated dropwise with cyclopentanone (0.09 ml, 1 mmol). The mixture was stirred for 30 minutes and then (polystyrylmethyl)trimethylammonium cyanoborohydride (2.04 mmol/g, 490 mg, 0.1 mmol) was added. The reaction mixture was stirred at room temperature for 14 hours, applied to a SCX cartridge (Varian bond-elute, 10 g) and washed with methanol and then a mixture of 0.880 ammonia/methanol. The combined basic fractions were concentrated in vacuo and the resulting residue purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (0.25:2.25:97.5) to afford the title compound (E223). MS (ES+) m/e 366 [M+H]+.

reactant | N-Methyl-6-(2,3,4,5-tetrahydro-1H-3-benzazepin-7-yloxy)-3-pyridinecarboxamide | 0.5 mmol, 150 mg | CNC(=O)C=1C=NC(=CC1)OC1=CC2=C(CCNCC2)C=C1 | C17H19N3O2
reactant | cyclopentanone | 1 mmol, 0.09 ml | C1(CCCC1)=O | C5H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 5 ml | CO | CH4O
product | 6-[(3-Cyclopentyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-N-methyl-3-pyridinecarboxamide | C1(CCCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=CC=C(C=N2)C(=O)NC | C22H27N3O2
